US09422261B2
1-(2,4-bis(benzyloxy)phenyl)-1-(pyridin-3-yl) ethanol
1.6 M n-butyllithium solution in hexane (14.9 ml; 23.8 mmol; 1.1 eq) is added dropwise to a solution of compound (12) (8 g; 21.7 mmol; 1.0 eq) in 300 ml of anhydrous THF cooled to −78° C. The solution is stirred for 1 hour at −78° C. and then 3-acetylpyridine (2.6 ml; 23.8 mmol; 1.1 eq) is added dropwise. The solution is stirred for 3 hours at −78° C., then for 15 hours at room temperature, and then 100 ml of water and 50 ml of 2 M aqueous sodium hydroxide solution are added. After extraction with ethyl acetate (2×150 ml), the organic phases are combined, dried over MgSO4 and concentrated under reduced pressure. The oil obtained is purified by chromatography on silica gel (eluent: cyclohexane/ethyl acetate: 4:6) to lead to a mixture of compound (16) and 3-acetylpyridine (6.7 g; 66% by mass of compound (16); 50%) obtained as a yellow oil.

reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 23.8 mmol, 14.9 ml, 1.1 eq | CCCCCC | C6H14
reactant | 3-acetylpyridine | 23.8 mmol, 2.6 ml, 1.1 eq | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | sodium hydroxide | 2 M, 50 ml | [OH-].[Na+]
reactant | THF | 300 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 1-(2,4-bis(benzyloxy)phenyl)-1-(pyridin-3-yl) ethanol | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(C)(O)C=1C=NC=CC1 | C27H25NO3
